US05194441
Pyrid-3-yl isopropyl ketone
133 g (0.70 mol) of alpha-morpholino-3-pyridylacetonitrile, 25.7 g (0.07 mol) of tetrabutylammonium iodide, 278 g (3.5 mol) of 50% strength NaOH, 250 ml (2.65 mol) of isopropyl bromide and 300 ml of toluene, as a two-phase system, were heated at 50° C. for 4 hours with thorough mixing. Working up was carried out by adding water, separating the phases and washing the organic phase three times with water. After the solvent had been distilled off, the crude product in the form of an oil was added dropwise to half-concentrated H2SO4 at 60° C. After 2 hours, the mixture was brought to pH 9 with 50% strength NaOH and was extracted with toluene. The organic phase was washed three times with water and the wash solution was extracted 4 times with toluene. The collected toluene extracts were dried over Na2SO4 and filtered and the filtrate was evaporated down. The product was obtained as a dark oil.

reactant | alpha-morpholino-3-pyridylacetonitrile | 0.70 mol, 133 g | O1CCN(CC1)C(C#N)C=1C=NC=CC1 | C11H13N3O
reactant | NaOH | [OH-].[Na+]
reactant | isopropyl bromide | 2.65 mol, 250 ml | C(C)(C)Br | C3H7Br
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium iodide | 0.07 mol, 25.7 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | Pyrid-3-yl isopropyl ketone | C(C)(C)C(=O)C=1C=NC=CC1 | C9H11NO
